US07081454B2
{1-[2-(4-Iodo-2-methoxy-pyridin-3-yl)-7-methyl-3H-benzoimidazol-5-yl]-piperidin-4-yl}-carbamic acid tert-butyl ester:
[1-(3-Amino-5-methyl-4-nitro-phenyl)-piperidin-4-yl]-carbamic acid tert-butyl ester (1.54 g, 4.4 mmol) was dissolved in methanol (100 ml). Palladium on carbon (0.3 g, 10% Pd) was added and the suspension stirred vigorously under a balloon pressure of hydrogen overnight. The mixture was filtered through a pad of celite (under argon) into a 3-neck flask, the celite rinsed with methanol and the filtrate cooled to 0° C. A solution of 4-Iodo-2-methoxy-pyridine-3-carbaldehyde (1.21 g, 4.6 mmol) in methanol (50 ml) was added slowly (during 2 hours). The mixture was stirred overnight under air at ambient temperature, then concentrated in vacuo. Flash column chromatography on silica (eluent hexanes-ethyl acetate -methanol 5-4-1 gave the title compound. (0.79 g, 32%). LCMS (M+H)+ m/z 564 (t=1.31 min.).

reactant | [1-(3-Amino-5-methyl-4-nitro-phenyl)-piperidin-4-yl]-carbamic acid tert-butyl ester | 4.4 mmol, 1.54 g | C(C)(C)(C)OC(NC1CCN(CC1)C1=CC(=C(C(=C1)C)[N+](=O)[O-])N)=O | C17H26N4O4
reactant | hydrogen | [H][H] | H2
reactant | 4-Iodo-2-methoxy-pyridine-3-carbaldehyde | 4.6 mmol, 1.21 g | IC1=C(C(=NC=C1)OC)C=O | C7H6INO2
solvent | methanol | 100 ml | CO | CH4O
catalyst | Palladium on carbon | 0.3 g | [Pd] | Pd
solvent | methanol | 50 ml | CO | CH4O
product | {1-[2-(4-Iodo-2-methoxy-pyridin-3-yl)-7-methyl-3H-benzoimidazol-5-yl]-piperidin-4-yl}-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC1CCN(CC1)C1=CC2=C(N=C(N2)C=2C(=NC=CC2I)OC)C(=C1)C)=O | C24H30IN5O3
